US04495320
3,6-di-t-butyl-2-naphthyl Catechol Phosphite
6.0 weight parts of 3,6-di-t-butyl-2-naphthol was dissolved in 86.7 weight parts of dry toluene and the solution cooled to about 6° C. Under nitrogen, 4.08 weight parts of catechol phosphorochloridite was added to the solution. Then 2.37 weight parts of triethyl amine was added slowly to the cooled solution with stirring. This solution was stirred for about 16 hours at room temperature. The reaction mixture was filtered, washed twice with water, dried with MgSO4, and rotoevaporated to remove all traces of toluene. A gray oil was obtained. A product yield of 57 weight percent was obtained. The expected structure was confirmed by infra red and nuclear magnetic resonance spectra, and the molecular weight by the field desorption/mass spectrum.

reactant | 3,6-di-t-butyl-2-naphthol | C(C)(C)(C)C=1C(=CC2=CC=C(C=C2C1)C(C)(C)C)O | C18H24O
reactant | catechol phosphorochloridite | P(O)(Cl)OC=1C(O)=CC=CC1 | C6H6ClO3P
reactant | triethyl amine | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3,6-di-t-butyl-2-naphthyl Catechol Phosphite | P(O)(O)O.C(C)(C)(C)C=1C(=CC2=CC=C(C=C2C1)C(C)(C)C)C1=C(C(O)=CC=C1)O | InChI=1S/C24H28O2.H3O3P/c1-23(2,3)17-11-10-15-13-19(18-8-7-9-21(25)22(18)26)20(24(4,5)6)14-16(15)12-17;1-4(2)3/h7-14,25-26H,1-6H3;1-3H
